US04094877
Condensation of 2-(2,4-bis(dimethylamino)benzoyl)-5-aminobenzoic acid and N,N,N',N'-tetramethyl-m-phenylenediamine by the method of part B of Example 3 and deacetylation of the resulting product affords 3,3-(2,4-bis(dimethylamino)phenyl-6-aminophthalide (I: X = Y2 = Y4 = (CH3)2N, Z4 = Z5 = Z7 = H, Z6 = H2N).

reactant | 2-(2,4-bis(dimethylamino)benzoyl)-5-aminobenzoic acid | CN(C1=C(C(=O)C2=C(C(=O)O)C=C(C=C2)N)C=CC(=C1)N(C)C)C | C18H21N3O3
reactant | N,N,N',N'-tetramethyl-m-phenylenediamine | CN(C1=CC(=CC=C1)N(C)C)C | C10H16N2
product | 2,4-bis(dimethylamino)phenyl-6-aminophthalide | CN(C1=C(C=CC(=C1)N(C)C)C1OC(=O)C2=CC(=CC=C12)N)C | C18H21N3O2
